US08133897B2
1-(2-Hydroxypropyl)-4-Phenyl-1H-imidazole-2-carbaldehyde
In a closed vessel a slurry of 4-phenyl-1H-imidazole-2-carbaldehyde (200 mg, 1.16 mmol) and sodium carbonate (60 mg, 0.6 mmol) in ethanol (4 mL) was treated with propylene oxide (170 μL, 2.4 mmol) and heated at 100° C. for 3 h. The cooled solution was filtered and the solids washed with DCM. The volatiles were removed in vacuo to yield the crude title compound which was used without further purification (250 mg, 63%). LC-MS: m/z=231.5 (MH+), tR=0.41 min, method A

reactant | 4-phenyl-1H-imidazole-2-carbaldehyde | 1.16 mmol, 200 mg | C1(=CC=CC=C1)C=1N=C(NC1)C=O | C10H8N2O
reactant | sodium carbonate | 0.6 mmol, 60 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | propylene oxide | 2.4 mmol, 170 μL | C1C(C)O1 | C3H6O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 1-(2-Hydroxypropyl)-4-Phenyl-1H-imidazole-2-carbaldehyde | OC(CN1C(=NC(=C1)C1=CC=CC=C1)C=O)C | C13H14N2O2
